US06605607B1
7-Cyano-2,3,4,5-tetrahydro-1H-3-benzazepine
A mixture of 3-(tert-butoxycarbonyl)-7-cyano-2,3,4,5-tetrahydro-1H-3-benzazepine (765 mg, 2.81 mmol) and trifluoroacetic acid (2 ml), in dichloromethane (20 ml) was stirred at 40° C. for 1 h. The reaction mixture was evaporated to dryness in vacuo and partitioned between ethyl acetate (50 ml) and water (50 ml). The aqueous layer was basified using potassium carbonate and re-extracted with ethyl acetate (2×30 ml). The combined basic organic extracts were dried over sodium sulfate and evaporated in vacuo to give the title compound as a colourless oil (212 mg, 44%).

reactant | 3-(tert-butoxycarbonyl)-7-cyano-2,3,4,5-tetrahydro-1H-3-benzazepine | 2.81 mmol, 765 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)C#N | C16H20N2O2
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 7-Cyano-2,3,4,5-tetrahydro-1H-3-benzazepine | 212 mg, 44% | C(#N)C1=CC2=C(CCNCC2)C=C1 | C11H12N2
